US09447074B2
Intermediate 69 2-bromo-3,4-bis(methyloxy)-1-{[(methyloxy)methyl]oxy}benzene
To a stirred solution of 1,2-bis(methyloxy)-4-{[(methyloxy)methyl]oxy}benzene (4.0 g) and TMEDA (3.93 ml) in dry diethyl ether (50 ml) was added tert-butyllithium (1.7M in pentane, 23.76 ml) at −70 C. The reaction was stirred at this temperature for 1 h before adding bromine (0.15 ml). This was allowed to stir at 0 C. for 3 h. The reaction was quenched by addition of 20% aqueous sodium dithionite and extracted with ethyl acetate. The organics were washed with dilute hydrochloric acid, aqueous sodium bicarbonate, brine and dried over sodium sulphate to yield a crude product. This was purified through silica, eluting with 0-10% ethyl acetate in hexane to give the title compound, 1.4 g

reactant | 1,2-bis(methyloxy)-4-{[(methyloxy)methyl]oxy}benzene | 4.0 g | COC1=C(C=C(C=C1)OCOC)OC | C10H14O4
reactant | TMEDA | 3.93 ml | CN(C)CCN(C)C | C6H16N2
reactant | tert-butyllithium | 1.7M, 23.76 ml | C(C)(C)(C)[Li]
reactant | bromine | 0.15 ml | BrBr | Br2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-bromo-3,4-bis(methyloxy)-1-{[(methyloxy)methyl]oxy}benzene | BrC1=C(C=CC(=C1OC)OC)OCOC | C10H13BrO4
